US06818787B2
Piperidinium 1-{1-[(2-Oxo-Tetrahydrofuran-3-ylidene)ethyl]aminomethyl}-1-Cyclohexane Acetate (125)
2-Acetylbutyrolactone (108 μL, 1 mmol), gabapentin (171 mg, 1 mmol), and piperidine (99 μL, 1 mmol) were mixed in anhydrous methanol (10 mL). After heating under reflux for 6 h, the solvent was removed under reduced pressure to afford the title compound with purity greater than 90%. 1H NMR (CDCl3, 400 MHz): δ 1.34-1.62 (m, 12H), 1.71 (m, 4H), 1.94 (s, 3H), 2.24 (s, 2H), 2.81 (t, J=7.6 Hz, 2H), 2.99 (m, 4H), 3.31 (d, J=6.4 Hz, 2H), 4.23 (t, J=7.6 Hz, 2H), 5.17 (s, br, 2H), 8.64 (t, J=6.4 Hz, 1H). MS (ESI) m/z 280.34 (M−H).

reactant | 2-Acetylbutyrolactone | 1 mmol, 108 μL | C(C)(=O)C1C(=O)OCC1 | C6H8O3
reactant | gabapentin | 1 mmol, 171 mg | C1CCC(CC1)(CC(=O)O)CN | C9H17NO2
reactant | piperidine | 1 mmol, 99 μL | N1CCCCC1 | C5H11N
solvent | methanol | 10 mL | CO | CH4O
product | Piperidinium 1-{1-[(2-Oxo-Tetrahydrofuran-3-ylidene)ethyl]aminomethyl}-1-Cyclohexane Acetate | O=C1OCCC1=CCNCC1(CCCCC1)CC(=O)[O-].[NH2+]1CCCCC1 | InChI=1S/C15H23NO4.C5H11N/c17-13(18)10-15(6-2-1-3-7-15)11-16-8-4-12-5-9-20-14(12)19;1-2-4-6-5-3-1/h4,16H,1-3,5-11H2,(H,17,18);6H,1-5H2
